US05234946
5 g of 3-bromothiophene was dissolved in 35 ml of anhydrous ethyl ether, and with stirring under cooling at -70° to -65° C., 19 ml of a 15% n-butyllithium-hexane solution and 10.5 g of tributyltin chloride were added. The mixture was stirred at the above temperature for 1 hour and then at room temperature for 1 hour. The reaction mixture was washed with a saturated aqueous solution of sodium hydrogen carbonate, and then the solvent was evaporated. The residue was purified by distillation under reduced pressure to give 8.5 g (yield 74%) of tributyl(3-thienyl)tin, b.p. 150°-158° C./2 mmHg.

reactant | 3-bromothiophene | 5 g | BrC1=CSC=C1 | C4H3BrS
reactant | tributyltin chloride | 10.5 g | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | ethyl ether | 35 ml | C(C)OCC | C4H10O
product | tributyl(3-thienyl)tin | 8.5 g, yield 74% | C(CCC)[Sn](C1=CSC=C1)(CCCC)CCCC | InChI=1S/C4H3S.3C4H9.Sn/c1-2-4-5-3-1;3*1-3-4-2;/h1,3-4H;3*1,3-4H2,2H3;
